### PR TITLE
[Merged by Bors] - chore: rename declarations whose names do not match their statements

### PR DESCRIPTION
**Pull request by Multramate**
The lemmas about `IsLocalDiffeomorphAt.localInverse` simply were in the wrong order: they should say `continuous_localInverse` etc. instead of `localInverse_continuous`. In some cases, both variants already existed (so we deprecated the wrongly named one).

Split out of #43889.

Written with the assistance of Claude (Claude Code).

------

Unlike the other parts of the split, these old names are well-formed and pronounceable — there is no misspelling to spot. They simply say the wrong thing, so each one needs its statement read.

- `coeff_isPWOsupport` → `isPWO_support_coeff` — the conclusion really is `IsPWO (support (coeff ..))`
- `preserveFiniteLimits_plusFunctor` → `preservesFiniteLimits_plusFunctor` — the verb tracks the head symbol `PreservesFiniteLimits`
- `tendsto_of_uncrossing_lt_top` → `tendsto_of_upcrossings_lt_top` — wrong word and wrong number, checked against the hypothesis `upcrossings a b f w`
- `substr_num_den'` → `sub_num_den'`
- `nneg_mul_add_sq_of_abs_le_one` → `nonneg_mul_add_sq_of_abs_le_one`

###  lemmas

`contmdiffOn_localInverse` → `contMDiffOn_localInverse`, and for consistency the two lemmas below it take the same order: `localInverse_contMDiffAt` → `contMDiffAt_localInverse` and `localInverse_mdifferentiableAt` → `mdifferentiableAt_localInverse`. All three old names are deprecated and their use sites updated.

`localInverse_contMDiffOn` already existed further down the file with a byte-identical statement and proof. The duplicate is dropped and the lemma moved above its first use, so that name is deprecated to `contMDiffOn_localInverse` too.

The review suggested `mdifferentiableAt_contMDiffAt` for the third of these. Its statement is `MDiffAt hf.localInverse (f x)` — about the local inverse, not about `contMDiffAt` — so `mdifferentiableAt_localInverse` is used instead, matching the other two. Happy to change it if the original was meant literally.

### Notes on the review

`preserveFiniteLimits_plusFunctor` gets no deprecated alias: it is an instance, so it is found by typeclass resolution rather than by name, and nothing in Mathlib refers to it by name.

`sub_num_den'` is left as proposed. The statement is `(q - r).num * q.den * r.den = (q.num * r.den - r.num * q.den) * (q - r).den`, which is genuinely subtraction; it sits directly below `add_num_den'` and `mul_num_den'` and its proof goes via `add_num_den'` and `sub_eq_add_neg`; and no `sub_num_den` or `sub_num_den'` exists anywhere else in Mathlib or the toolchain, so there is no collision.

----

 (see #44049, #44050 and #44052 for the other parts).

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/LeftExact.lean [hunk 1]
```diff
@@ -216,14 +216,17 @@ instance preservesLimitsOfShape_plusFunctor
...
-instance preserveFiniteLimits_plusFunctor
+instance preservesFiniteLimits_plusFunctor
     [HasFiniteLimits D] [PreservesFiniteLimits (forget D)] [(forget D).ReflectsIsomorphisms] :
     PreservesFiniteLimits (J.plusFunctor D) := by
   apply preservesFiniteLimits_of_preservesFiniteLimitsOfSize.{t}
   intro K _ _
   have : ReflectsLimitsOfShape K (forget D) := reflectsLimitsOfShape_of_reflectsIsomorphisms
   apply preservesLimitsOfShape_plusFunctor
 
+@[deprecated (since := "2026-09-17")]
```
Comment (grunweg) [inline Mathlib/CategoryTheory/Sites/LeftExact.lean]: This name doesn't need a deprecation.

File: Mathlib/Data/Rat/Lemmas.lean [hunk 2]
```diff
@@ -220,11 +220,13 @@ theorem add_num_den' (q r : ℚ) :
   apply Rat.eq_iff_mul_eq_mul.mp
   rw [← divInt_eq_div]
 
-theorem substr_num_den' (q r : ℚ) :
+theorem sub_num_den' (q r : ℚ) :
```
Comment (grunweg) [inline Mathlib/Data/Rat/Lemmas.lean:223]: Let me flag this for a second pair of eyes.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 3]
```diff
@@ -188,13 +185,16 @@ lemma localInverse_mem_target (hf : IsLocalDiffeomorphAt I J n f x) :
     x ∈ hf.localInverse.target :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean:188]: Please use `contMDiffOn_localInverse` instead.

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean [hunk 4]
```diff
@@ -233,10 +233,6 @@ lemma localInverse_isLocalDiffeomorphAt (hf : IsLocalDiffeomorphAt I J n f x) :
     IsLocalDiffeomorphAt J I n (hf.localInverse) (f x) :=
   hf.localInverse.isLocalDiffeomorphAt _ _ _ hf.localInverse_mem_source
 
-lemma localInverse_contMDiffOn (hf : IsLocalDiffeomorphAt I J n f x) :
-    CMDiff[hf.localInverse.source] n hf.localInverse :=
-  hf.localInverse.contMDiffOn_toFun
-
 lemma localInverse_contMDiffAt (hf : IsLocalDiffeomorphAt I J n f x) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/LocalDiffeomorph.lean]: ... and rename these to `contMDiffAt_localInverse` and `mdifferentiableAt_contMDiffAt` instead, respectively. Feel free to do so in a separate PR.

**Review by grunweg — COMMENTED** [review]
Thanks! A few minor comments. Please also update the PR description accordingly.

File: Mathlib/Data/Rat/Lemmas.lean (hunk 2 above)
Comment (Multramate) [reply Mathlib/Data/Rat/Lemmas.lean:223]: I think this is fine? It's literally subtraction (apparently spelt sub*s*traction here for whatever reason), and there are already `add_num_den` and `mul_num_den`, etc.

File: Mathlib/CategoryTheory/Sites/LeftExact.lean (hunk 1 above)
Comment (Multramate) [reply Mathlib/CategoryTheory/Sites/LeftExact.lean]: Oops

File: Mathlib/Geometry/Manifold/LocalDiffeomorph.lean (hunk 4 above)
Comment (Multramate) [reply Mathlib/Geometry/Manifold/LocalDiffeomorph.lean]: I'll do them here. I've already made 5 chore PRs in a row :)

Comment (grunweg) [reply Mathlib/Geometry/Manifold/LocalDiffeomorph.lean]: Thanks! Indeed, I had a typo in my comment; you've picked the right name.

**Comment by grunweg** [comment]
Thanks! I have drastically shortened the PR description. (Can you take that into account for the next PRs, please?) With that fixed, I think this PR is good to go.
bors merge
